US04536367
With stirring, 150.0 g of N,N-dibenzylaniline was added slowly over approximately two hours to 425.0 g of 100 percent sulfuric acid while maintaining a temperature in the range of 25° to 30° C. The resulting solution was set aside at ambient temperature for approximately fourteen hours. Then, 165 g of 65 percent oleum was added to the solution with stirring while maintaining a temperature in the range of 25° to 30° C. using an ice water bath. The resulting solution was stirred approximately 19 hours at ambient temperature and then was poured slowly onto ice with stirring. Sufficient sodium carbonate was added gradually to the drowned mixture to adjust the pH to approximately 7.0 and thus obtaining a solution of N,N-bis(3-sulfobenzyl)aniline.

reactant | N,N-dibenzylaniline | 150.0 g | C(C1=CC=CC=C1)N(C1=CC=CC=C1)CC1=CC=CC=C1 | C20H19N
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | oleum | 165 g | OS(=O)(=O)O.O=S(=O)=O
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
product | N,N-bis(3-sulfobenzyl)aniline | S(=O)(=O)(O)C=1C=C(CN(C2=CC=CC=C2)CC2=CC(=CC=C2)S(=O)(=O)O)C=CC1 | C20H19NO6S2
